US05532380
Synthesis of (2RS,3SR)-2-acetoxy-3-bromomethoxy-1,4-dibenzoyloxybutane
34.2 g of (4RS,5SR)-4,5-bis(benzoyloxymethyl)-1,3-dioxolane and acetyl bromide were mixed with stirring under cooling with ice. The mixture was further reacted with the addition of 1.0 g of zinc bromide. After dismantling the ice water bath, 50 ml of dichloromethane was added and reacted while stirring at room temperature. After the reaction for two hours, the insoluble matters were separated by filtration, and the filtrate was concentrated by evaporator at a low temperature (below room temperature) to obtain the title compound.

reactant | (4RS,5SR)-4,5-bis(benzoyloxymethyl)-1,3-dioxolane | 34.2 g | C(C1=CC=CC=C1)(=O)OCC1OCOC1COC(C1=CC=CC=C1)=O | C19H18O6
reactant | acetyl bromide | C(C)(=O)Br | C2H3BrO
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | zinc bromide | 1.0 g | [Br-].[Zn+2].[Br-]
product | (2RS,3SR)-2-acetoxy-3-bromomethoxy-1,4-dibenzoyloxybutane | C(C)(=O)OC(COC(C1=CC=CC=C1)=O)C(COC(C1=CC=CC=C1)=O)OCBr | C21H21BrO7
